US07989444B2
2-ethyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-4,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from: 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine (0.43 mmol) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (0.52 mmol) and was obtained as a colourless slightly hygroscopic solid (60 mg).

reactant | 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine | 0.43 mmol | C(C)C=1SC2=CC3=C(CCNCC3)C=C2N1 | C13H16N2S
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 0.52 mmol | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 2-ethyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-4,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine hydrochloride | Cl.C(C)C1SC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)CC2=N1 | InChI=1S/C29H34N6S2.ClH/c1-4-27-31-25-17-20-11-14-35(15-12-21(20)18-26(25)37-27)13-6-16-36-29-33-32-28(34(29)3)23-7-5-8-24-22(23)10-9-19(2)30-24;/h5,7-10,18,27H,4,6,11-17H2,1-3H3;1H
